US07253196B2
2-Anilino-5-(1H-benzimidazol-2-ylmethyl)-1,3-thiazol-4(5H)-one
N-(2-Aminophenyl)-2-(2-anilino-4-oxo-4,5-dihydro-1,3-thiazol-5-yl)acetamide (40.8 mg, 1 eq) was taken up in HOAc (2 mL), transferred to a micro-tube and run at 100° C. for 600 s. The reaction mixture was evaporated to give 42 mg, as a crude brown oil. Purified by HP-LCMS, to the pooled fractions was added NaOH (1M) to pH=14, the MeCN was evaporated and the aqueous layer extracted with DCM/H2O (9:1), dried and evaporated to give the title compound as an off-white powder: HPLC 99%, RT=2.02 min (System A, 10-97% MeCN over 3 min), 99%, RT=0.96 min (System B, 2-95% MeCN over 2 min); 1H NMR (400 MHz, METHANOL-D4) δ ppm 3.23 (m, 1 H) 3.80 (m, 1 H) 4.70 (m, 1 H) 7.02 (m, 1 H) 7.17 (m, 3 H) 7.32 (m, 2 H) 7.50 (m, 2 H) 7.62 (m, 1 H); MS [M+H]+ m/z=323.

reactant | N-(2-Aminophenyl)-2-(2-anilino-4-oxo-4,5-dihydro-1,3-thiazol-5-yl)acetamide | 40.8 mg, 1 eq | NC1=C(C=CC=C1)NC(CC1C(N=C(S1)NC1=CC=CC=C1)=O)=O | C17H16N4O2S
solvent | HOAc | 2 mL | CC(=O)O | C2H4O2
product | 2-Anilino-5-(1H-benzimidazol-2-ylmethyl)-1,3-thiazol-4(5H)-one | N(C1=CC=CC=C1)C=1SC(C(N1)=O)CC1=NC2=C(N1)C=CC=C2 | C17H14N4OS
